US08058300B2
Step 1: 1-(4-Bromo-phenyl)-cyclobutanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 6, Step 1 using ethyl 4-bromophenylacetate and 1,3-dibromopropane.

reactant | ethyl 4-bromophenylacetate | BrC1=CC=C(C=C1)CC(=O)OCC | C10H11BrO2
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | 1-(4-Bromo-phenyl)-cyclobutanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCC1)C1=CC=C(C=C1)Br | C13H15BrO2
